US07605265B2
O-Benzyl-N-(2-benzyloxy-5,6,7,8-tetrahydro-quinolin-5-yl)-hydroxylamine:
To the mixture of 2-benzyloxy-7,8-dihydro-6H-quinolin-5-one (37.8 g, 149 mmoL) in pyridine (300 mL) was added O-benzylhydroxylamine hydrochloride (26.2 g, 164 mmoL) and the resulting mixture was stirred at room temperature for 24 h. The reaction was concentrated, diluted with methylene chloride and washed with saturated sodium bicarbonate (×2) and brine (×2). The methylene chloride layer was dried, filtered and concentrated. Purification by column chromatography on silica gel with 5% ethyl acetate in hexane provided the desired product (51.0 g, 96%) as an offwhite solid.

reactant | 2-benzyloxy-7,8-dihydro-6H-quinolin-5-one | 37.8 g | C(C1=CC=CC=C1)OC1=NC=2CCCC(C2C=C1)=O | C16H15NO2
reactant | O-benzylhydroxylamine hydrochloride | 26.2 g | Cl.C(C1=CC=CC=C1)ON
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | O-Benzyl-N-(2-benzyloxy-5,6,7,8-tetrahydro-quinolin-5-yl)-hydroxylamine | 51.0 g, 96% | C(C1=CC=CC=C1)ONC1C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1 | C23H24N2O2
